US05696290
Cyclohexyl-tetraethylguanidine
Phosphorus oxychloride (144 ml, 237 g, 1.55 mol) is added dropwise over a 1.5 hour period to a toluene (800 ml) solution of cyclohexyl-diethylurea (297 g, 1.5 mol). The reaction is stirred overnight at room temperature. Diethylamine (330 ml, 234 g, 3.2 mol) is added dropwise for over a 2 hour period, then stirred 3 hours at room temperature. The reaction mixture is poured into water (3000 ml). The water layer is extracted with toluene (3×200 ml). The organic layer and extracts are combined and dried over Na2CO3, filtered and concentrated. The residue is further distilled under vacuum (ca. 0.3-0.5 torr) collecting product, cyclohexyl-tetraethylguanidine, at 110°-112° C. (334 g, 88%) of 99% purity as judged by gas chromatography. 1H NMR (CD3CN) δ 3.13-3.23 (m, 1H), 3.07 (q, 4H), 2.97 (q, 4H), 1.13-1.77 (m, 10H), 1.0 (t, 6H), 0.98 (t, 6H) ppm.

reactant | Phosphorus oxychloride | 1.55 mol, 144 ml, 237 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | cyclohexyl-diethylurea | 1.5 mol, 297 g | C1(CCCCC1)N(C(=O)NCC)CC | C11H22N2O
reactant | Diethylamine | 3.2 mol, 330 ml, 234 g | C(C)NCC | C4H11N
solvent | water | 3000 ml | O | H2O
product | Cyclohexyl-tetraethylguanidine | C1(CCCCC1)N=C(N(CC)CC)N(CC)CC | C15H31N3
